US07018685B2
The oxidation of 24 mmol of 7-butoxy-1,8-difluorofluorene-2-boronic acid with 22 ml of hydrogen peroxide (35 percent) in 60 ml of tert-butyl methyl ether is effected in a similar manner to the procedure described in Example 1. 7-Butoxy-1,8-difluorofluoren-2-ol is obtained.

reactant | 7-butoxy-1,8-difluorofluorene-2-boronic acid | 24 mmol | C(CCC)OC1=CC=C2C=3C=CC(=C(C3CC2=C1F)F)B(O)O | C17H17BF2O3
reactant | hydrogen peroxide | 22 ml | OO | H2O2
solvent | tert-butyl methyl ether | 60 ml | COC(C)(C)C | C5H12O
product | 7-Butoxy-1,8-difluorofluoren-2-ol | C(CCC)OC1=CC=C2C=3C=CC(=C(C3CC2=C1F)F)O | C17H16F2O2
